US05519034
A mixture of (-)-1-[1-(2-bromophenyl)cyclobutyl]-6,7-dimethoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline (1.46 g), 48% aqueous hydrobromic acid (20 ml) and glacial acetic acid (20 ml) was heated under reflux for 5 hours. The solvent was removed by evaporation and the residue dried by repeated azeotropic distillation with propan-2-ol. The residue was dissolved in propan-2-ol and precipitated with ether. The resulting solid was dried in vacuo at 45° C. to yield (+)-1-[1-(2-bromo-phenyl)cyclobutyl] -6,7-dihydroxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide [m.p. 207°-209° C. (dec)] which had a specific optical rotation αD of +38.2°.

reactant | (-)-1-[1-(2-bromophenyl)cyclobutyl]-6,7-dimethoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline | 1.46 g | BrC1=C(C=CC=C1)C1(CCC1)C1N(CCC2=CC(=C(C=C12)OC)OC)C | C22H26BrNO2
reactant | hydrobromic acid | 20 ml | Br | BrH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | (+)-1-[1-(2-bromo-phenyl)cyclobutyl] -6,7-dihydroxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | Br.BrC1=C(C=CC=C1)C1(CCC1)C1N(CCC2=CC(=C(C=C12)O)O)C | InChI=1S/C20H22BrNO2.BrH/c1-22-10-7-13-11-17(23)18(24)12-14(13)19(22)20(8-4-9-20)15-5-2-3-6-16(15)21;/h2-3,5-6,11-12,19,23-24H,4,7-10H2,1H3;1H
